*****************************************************************************************
*						Exemplo - Modelo de memristor									*
*****************************************************************************************
simulator lang=spectre
include "32nm_hp.pm"
include "memristor.scs"
include "test.scs"

Va node 0 vsource type=pwl wave=[0 1u 10n 1u 10.01n 1 20n 1 20.01n 1u 30n 1u 30.01n -1 40n -1 40.01n 1u]

XR1 node  0 memristor
TMR node2 0 bsource v=v(node)/i(XR1)


mytran tran stop=30n start=0


***********************************************************************
